US08383644B2
(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester (250 mg) was dissolved in 6 mL of EtOAc:MeOH (1:5) and Pd—C (30 mg, 10% by wt.) was added and stirred under a hydrogen atmosphere (balloon) for 4 hours. Triethylamine (0.3 mL) was added to the reaction mixture and stirred for 5 minutes. The catalyst was filtered and washed with MeOH. The filtrate was evaporated, and the residue was taken up in EtOAc (10 mL) and washed with water and brine, and then dried (Na2SO4), filtered, and evaporated to get (3S,8S)-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-3-(3-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino-[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester (180 mg). LCMS (m/z): 695.

reactant | (3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | 250 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC(=CC=C3)OCC3=CC(=C(C=C3)Cl)Cl | C47H47Cl2N3O8
reactant | Triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | EtOAc MeOH | 6 mL | CCOC(=O)C.CO
catalyst | Pd—C | 30 mg | [Pd] | Pd
product | (3S,8S)-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-3-(3-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino-[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | 180 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC(=CC=C3)O | C40H43N3O8
